US06617357B2
In a dry flask under argon filled with 2,4-dimethyinitrobenzene (1.0 g, 6.61 mmol), chlorosulfonic acid (5 mL) was added dropwise. The resulting solution was stirred at 130° C. for 4 h, and then the mixture was poured slowly onto ice. A light brown precipitate formed and was isolated by filtration. The solid was dissolved in methanol (20 mL), and dimethylamine (3 mL) was added with stirring. After 15 min, the reaction mixture was diluted with methylene chloride and 1 M HCl. The layers were separated, and the organics were dried and concentrated. Purification of the residue by flash chromatography (15% ethyl acetate/hexanes) provided 2,4-dimethyl-5-nitro (N,N-dimethyl)benzenesulfonamide (626 mg, 37%) as a white solid. Anal. Calcd for C10H14N2O4S: C, 46.50; H, 5.46; N, 10.85. Found: C, 46.68; H, 5.25; N, 10.71.

reactant | 2,4-dimethyinitrobenzene | 6.61 mmol, 1.0 g | CC1=C(C=CC(=C1)C)[N+](=O)[O-] | C8H9NO2
reactant | chlorosulfonic acid | 5 mL | ClS(=O)(=O)O | ClHO3S
reactant | dimethylamine | 3 mL | CNC | C2H7N
solvent | methanol | 20 mL | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | HCl | 1 M | Cl | ClH
product | 2,4-dimethyl-5-nitro (N,N-dimethyl)benzenesulfonamide | 626 mg, 37% | CC1=C(C=C(C(=C1)C)[N+](=O)[O-])S(=O)(=O)N(C)C | C10H14N2O4S
